### PR TITLE
[Merged by Bors] - feat (Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors) : power series with constant coeff unit is a unit

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Prove properties of the inverse of a power series over a general Ring.

We prove that a multivariate power series is a unit iff its constant coefficient is a unit.
The proof uses the construction of the inverse (which is a priori only a left inverse) and proves it is a right inverse.

To that aim, we prove the more general result that if the constant coefficient of a multivariate power series is not a zero divisor, then the power series itself is not a zero divisor.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by rwst — APPROVED** [review]
LGTM

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
+/-
+Copyright (c) 2024 Antoine Chambert-Loir. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Loir
+-/
+
+import Mathlib.RingTheory.MvPowerSeries.Basic
+import Mathlib.RingTheory.MvPolynomial.Homogeneous
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:8]:
```suggestion
```

**Comment by jcommelin** [comment]
Shouldn't the PR title refer to `Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors`? That's where most of the changes/contributions seem to be.

**Comment by AntoineChambert-Loir** [comment]
You're right. Having an inverse in the general case was my motivation, but given what was there, all I had to do is proving that constant coeff invertible (or non zero divisor) implies non zero divisor.

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 2]
```diff
@@ -42,6 +42,17 @@ TODO
...
+lemma degree_eq_zero_iff (d : σ →₀ ℕ) : degree d = 0 ↔ d = 0 := by
+  simp only [MvPolynomial.degree, Finset.sum_eq_zero_iff]
+  constructor
+  · intro hd
+    ext s
+    by_cases hs : s ∈ d.support
+    simp only [hd s hs, Finsupp.coe_zero, Pi.zero_apply]
+    simpa only [Finsupp.mem_support_iff, ne_eq, Decidable.not_not] using hs
+  · intro hd
+    simp [hd]
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:54]:
```suggestion
  simp only [MvPolynomial.degree, Finset.sum_eq_zero_iff, Finsupp.mem_support_iff, ne_eq,
    Decidable.not_imp_self]
  exact Iff.symm DFunLike.ext_iff

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 3]
```diff
@@ -137,6 +138,22 @@ theorem mul_invOfUnit (φ : MvPowerSeries σ R) (u : Rˣ) (h : constantCoeff σ
         exact Nat.eq_zero_of_le_zero (H s)
 #align mv_power_series.mul_inv_of_unit MvPowerSeries.mul_invOfUnit
 
+theorem invOfUnit_mul (φ : MvPowerSeries σ R) (u : Rˣ) (h : constantCoeff σ R φ = u) :
+    invOfUnit φ u * φ = 1 := by
+  rw [← mul_cancel_right_mem_nonZeroDivisors (r := φ.invOfUnit u)]
+  rw [mul_assoc, one_mul, mul_invOfUnit _ _ h, mul_one]
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean:144]:
```suggestion
  rw [← mul_cancel_right_mem_nonZeroDivisors (r := φ.invOfUnit u), mul_assoc, one_mul,
    mul_invOfUnit _ _ h, mul_one]
```

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 4]
```diff
@@ -137,6 +138,22 @@ theorem mul_invOfUnit (φ : MvPowerSeries σ R) (u : Rˣ) (h : constantCoeff σ
...
+  simp only [constantCoeff_invOfUnit, IsUnit.mem_nonZeroDivisors (Units.isUnit u⁻¹)]
+
+theorem isUnit_iff_constantCoeff (φ : MvPowerSeries σ R) :
+    IsUnit φ ↔ IsUnit (constantCoeff σ R φ) := by
+  constructor
+  · exact IsUnit.map _
+  · rintro ⟨u, hu⟩
+    rw [isUnit_iff_exists]
+    use φ.invOfUnit u
+    simp only [mul_invOfUnit φ u hu.symm, invOfUnit_mul φ u hu.symm, true_and]
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean:155]:
```suggestion
  · intro ⟨u, hu⟩
    use ⟨_, φ.invOfUnit u, mul_invOfUnit φ u hu.symm,  invOfUnit_mul φ u hu.symm⟩
```

Comment (faenuccio) [reply Mathlib/RingTheory/MvPowerSeries/Inverse.lean:155]: You could even shrink the whole proof to avoid the constructor, but I wonder whether it is worth it.

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+Authors: Antoine Chambert-Loir
+-/
+
+import Mathlib.RingTheory.MvPowerSeries.Basic
+import Mathlib.Data.Finsupp.WellFounded
+
+/-! # ZeroDivisors in a MvPowerSeries ring
+
+- `mem_nonZeroDivisors_of_constantCoeff` proves that
+a mv power series whose constant is not a zero divisor
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:13]:
```suggestion
a multivariate power series whose constant coefficient is not a zero divisor
```

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 6]
```diff
@@ -0,0 +1,75 @@
...
+is not a zero divisor
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:14]:
```suggestion
is itself not a zero divisor
```

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 7]
```diff
@@ -0,0 +1,75 @@
...
+
+## TODO
+
+Prove that if `R` has no zero divisors, then so does `MvPowerSeries σ R`
+(To avoid induction, it would be nice to endow `σ →₀ ℕ
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:19]:
```suggestion
(To avoid induction, it would be nice to endow `σ →₀ ℕ`
```

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 8]
```diff
@@ -0,0 +1,75 @@
...
+with a lexicographic order, for some well ordering of σ…)
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:20]:
```suggestion
with a lexicographic order, for some well ordering of `σ`…)
```

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 9]
```diff
@@ -0,0 +1,75 @@
...
+section Semiring
+
+variable [Semiring R]
+
+/-- A multivariate power series is not a zero divisor
+  when its constant coefficient is not a zero divisor -/
+theorem mem_nonZeroDivisors_of_constantCoeff {φ : MvPowerSeries σ R}
+    (hφ : constantCoeff σ R φ ∈ nonZeroDivisors R) :
+    φ ∈ nonZeroDivisors (MvPowerSeries σ R) := by
+  rw [mem_nonZeroDivisors_iff]
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:43]:
```suggestion
```

Comment (faenuccio) [reply Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:43]: I will come back to this proof later on.

**Review by faenuccio — COMMENTED** [review]
Perhaps the file `NoZeroDivisors` should be `NonZeroDivisors`, given the name of the structure?

**Comment by faenuccio** [comment]
> > Perhaps the file `NoZeroDivisors` should be `NonZeroDivisors`, given the name of the structure?
> 
> Late on, I will prove here that `MvPowerSeries` satisfies `NoZeroDivisors`… Either name is fine to me.

Then I agree with this naming.

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 10]
```diff
@@ -0,0 +1,74 @@
...
+    have hue : u ≤ e := by simp only [← huv, le_add_iff_nonneg_right, zero_le]
+    refine ⟨hue, ?_⟩
+    by_contra h'
+    suffices u = e by
+      apply huv' this
+      simpa only [← huv, self_eq_add_right] using this
+    push_neg at h'
+    exact le_antisymm hue h'
+  · intro he
+    simp only [mem_antidiagonal, add_zero, not_true_eq_false] at he
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:68]:
```suggestion
  classical
  intro x hx
  ext d
  apply WellFoundedLT.induction d
  intro e he
  rw [map_zero, ← mul_right_mem_nonZeroDivisors_eq_zero_iff hφ, ← map_zero (f := coeff R e), ← hx]
  convert (coeff_mul e x φ).symm
  rw [Finset.sum_eq_single (e,0), coeff_zero_eq_constantCoeff]
  · rintro ⟨u, _⟩ huv _
    suffices u < e by simp only [he u this, zero_mul, map_zero]
    have hue : u ≤ e := by simp only [← mem_antidiagonal.mp huv, le_add_iff_nonneg_right, zero_le]
    exact ⟨hue, fun h ↦ by simp_all [mem_antidiagonal.mp huv, le_antisymm hue h]⟩
  · simp only [mem_antidiagonal, add_zero, not_true_eq_false, coeff_zero_eq_constantCoeff,
    
```

**Review by faenuccio — COMMENTED** [review]
I have added a bit of golfing and some comments : the one about Hahn series is probably the only one that is not purely cosmetical. Apart from those, LGTM, thanks!

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 11]
```diff
@@ -0,0 +1,74 @@
...
+
+open Finsupp
+
+variable {σ R : Type*}
+
+section Semiring
+
+variable [Semiring R]
+
+/-- A multivariate power series is not a zero divisor
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:38]: I could but this looks awkward.
I feel it rather belongs to a PR about HahnSeries (where a lot of things are missing, by the way).

[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:37]: I see your point; but it would be a pity if someone had to implement this result for Hahn series and they re-do it from scratch rather than relying on your contribution. A single lemma in the Hahn series file would be in the scope of this PR, I believe, but if you prefer not I would suggest that you add two TODO's both in the mvPS and in the Hahn series file, saying that this could be done but we're waiting for more development of Hahn series.

**Comment by faenuccio** [comment]
Thanks!

**Comment by faenuccio** [comment]
maintainer merge

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 12]
```diff
@@ -42,6 +42,10 @@ TODO
 /-- The degree of a monomial. -/
 def degree (d : σ →₀ ℕ) := ∑ i ∈ d.support, d i
 
+lemma degree_eq_zero_iff (d : σ →₀ ℕ) : degree d = 0 ↔ d = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:45]: Does it make sense to have this as a `simp` lemma?

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 13]
```diff
@@ -137,6 +138,21 @@ theorem mul_invOfUnit (φ : MvPowerSeries σ R) (u : Rˣ) (h : constantCoeff σ
         exact Nat.eq_zero_of_le_zero (H s)
 #align mv_power_series.mul_inv_of_unit MvPowerSeries.mul_invOfUnit
 
+@[simp]
+theorem invOfUnit_mul (φ : MvPowerSeries σ R) (u : Rˣ) (h : constantCoeff σ R φ = u) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean:142]: Here `φ` and `u` can maybe be implicit, but do as you think it is more convenient.

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 14]
```diff
@@ -137,6 +138,21 @@ theorem mul_invOfUnit (φ : MvPowerSeries σ R) (u : Rˣ) (h : constantCoeff σ
...
+    invOfUnit φ u * φ = 1 := by
+  rw [← mul_cancel_right_mem_nonZeroDivisors (r := φ.invOfUnit u), mul_assoc, one_mul,
+    mul_invOfUnit _ _ h, mul_one]
+  apply mem_nonZeroDivisors_of_constantCoeff
+  simp only [constantCoeff_invOfUnit, IsUnit.mem_nonZeroDivisors (Units.isUnit u⁻¹)]
+
+theorem isUnit_iff_constantCoeff (φ : MvPowerSeries σ R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean:149]: Same here, `φ` is usually implicit in `iff` lemma (but not always).

File: Mathlib/RingTheory/PowerSeries/Inverse.lean [hunk 15]
```diff
@@ -120,6 +120,14 @@ theorem sub_const_eq_X_mul_shift (φ : R⟦X⟧) :
 set_option linter.uppercaseLean3 false in
 #align power_series.sub_const_eq_X_mul_shift PowerSeries.sub_const_eq_X_mul_shift
 
+theorem invOfUnit_mul (φ : R⟦X⟧) (u : Rˣ) (h : constantCoeff R φ = u) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Inverse.lean:123]: Same.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/RingTheory/PowerSeries/Inverse.lean [hunk 16]
```diff
@@ -120,6 +120,14 @@ theorem sub_const_eq_X_mul_shift (φ : R⟦X⟧) :
...
+    invOfUnit φ u * φ = 1 :=
+  MvPowerSeries.invOfUnit_mul φ u h
+
+theorem isUnit_iff_constantCoeff (φ : R⟦X⟧) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Inverse.lean:127]: Same.

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 17]
```diff
@@ -0,0 +1,63 @@
...
+import Mathlib.RingTheory.MvPowerSeries.Basic
+import Mathlib.Data.Finsupp.WellFounded
+
+/-! # ZeroDivisors in a MvPowerSeries ring
+
+- `mem_nonZeroDivisors_of_constantCoeff` proves that
+a multivariate power series whose constant coefficient is not a zero divisor
+is itself not a zero divisor
+
+## TODO
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:16]: Can you add in the documentation the counterexample showing that it is difficult to characterize zerodivisors (I mean that the analogue of [Polynomial.nmem_nonZeroDivisors_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/RingDivision.html#Polynomial.nmem_nonZeroDivisors_iff) does not hold?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:45]: It would make sense, but does not seem necessary. (We discussed that briefly with Filippo)

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Inverse.lean:142]: The point is that φ and u are not implicit in the preexisting `mul_invOfUnit`.

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Inverse.lean:142]: OK, let's keep it as it is then.

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Inverse.lean:149]: OK.

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Inverse.lean:142]: Also, we discussed with Filippo that it could be useful to have it explicit, in case where one wants lean to produce the hypothesis `h`. 
(TODO?: prove equivalence)

File: Mathlib/RingTheory/PowerSeries/Inverse.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Inverse.lean:123]: Done. I also added a simp tag to be coherent with the mv case

**Comment by riccardobrasca** [comment]
We should really fix the bib linter. I *think* you have to put the reference in alphabetical order wrt to the author manually.

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:16]: Done.

**Comment by AntoineChambert-Loir** [comment]
The problem with the bib file with that one should not format it by hand, but just execute bibtool…

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
